US06660753B2
2,3-Dimethoxybenzoic acid (182 mg, 1 mmol) was treated with a solution of oxalyl chloride (1.5 mL of 2 M in dichloromethane, 3 mmol) and a catalytic amount of N,N-dimethylformamide. The reaction was stirred at ambient temperature for 2 hours. The excess oxalyl chloride was removed in vacuo to afford 2,3-dimethoxybenzoyl chloride.

reactant | 2,3-Dimethoxybenzoic acid | 1 mmol, 182 mg | COC1=C(C(=O)O)C=CC=C1OC | C9H10O4
reactant | oxalyl chloride | 3 mmol, 2 M, 1.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,3-dimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C=CC=C1OC | C9H9ClO3
